US07858640B2
{2-ethyl-8-fluoro-3-[4-(morpholine-4-sulfonyl)benzyl]-4-oxo-1,4-dihydroquinolin-5-yloxy}acetic Acid Methyl Ester
A mixture of (3-amino-4-fluorophenoxy)acetic acid methyl ester (0.22 g), 2-[4-(morpholine-4-sulfonyl)benzyl]-3-oxopentanoic acid methyl ester (0.41 g), polyphosphoric acid (1 g) and dioxane (20 mL) was heated at 130° C. for 18 hours. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate, dichloromethane and methanol (1:4:0 to 1:1:0 to 0:9:1 by volume) to afford title compound, 0.14 g.

reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | 0.22 g | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
reactant | 2-[4-(morpholine-4-sulfonyl)benzyl]-3-oxopentanoic acid methyl ester | 0.41 g | COC(C(C(CC)=O)CC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1)=O | C17H23NO6S
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | {2-ethyl-8-fluoro-3-[4-(morpholine-4-sulfonyl)benzyl]-4-oxo-1,4-dihydroquinolin-5-yloxy}acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1)=O)=O | C25H27FN2O7S
